US06433175B1
(RS)-1-(6,7-Difluoro-2,3-dihydro-1H-pyrrolo[1,2-a]indol-9-yl)-2-propylamine hydrochloride
(RS)-1-(6,7-Difluoro-2,3-dihydro-1H-pyrrolo[1,2-a]indol-9-yl)-2-propylamine hydrochloride was prepared from 1-(6,7-difluoro-2,3-dihydro-1H-pyrrolo[1,2-a]indol-9-yl)-2-nitro-1-propene according to the method described in Example 1 with the following modifications: the reaction mixture was heated under reflux for 4 h, cooled to 0° C. and poured into aqueous potassium sodium tartrate solution (150 mL) and diethyl ether (100 mL). The mixture was stirred for 30 min, filtered through celite® and the filtrate was extracted with ethyl acetate (2×50 mL). The combined organic extracts were washed (brine), dried (magnesium sulfate), concentrated in vacuo, treated with ethereal hydrogen chloride (1.0 M, 2 mL, 2 mmol) and concentrated in vacuo. The residue was recrystallised (ethyl acetate, 2-propanol) to give the title compound as a white solid (0.55 g, 63%): mp 264-266° C. Found: C, 58.67; H, 6.09; N, 9.65%. C14H16F2N2.HCl requires: C, 58.64; H, 5.98; N, 9.76%.

reactant | 1-(6,7-difluoro-2,3-dihydro-1H-pyrrolo[1,2-a]indol-9-yl)-2-nitro-1-propene | FC=1C(=CC=2C(=C3N(C2C1)CCC3)C=C(C)[N+](=O)[O-])F | C14H12F2N2O2
reactant | potassium sodium tartrate | 150 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
reactant | hydrogen chloride | 2 mmol, 1.0 M, 2 mL | Cl | ClH
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | (RS)-1-(6,7-Difluoro-2,3-dihydro-1H-pyrrolo[1,2-a]indol-9-yl)-2-propylamine hydrochloride | 0.55 g, 63% | Cl.FC=1C(=CC=2C(=C3N(C2C1)CCC3)CC(C)N)F | InChI=1S/C14H16F2N2.ClH/c1-8(17)5-9-10-6-11(15)12(16)7-14(10)18-4-2-3-13(9)18;/h6-8H,2-5,17H2,1H3;1H
